US08648066B2
A suspension of 1,1-dimethylethyl 6-bromo-2-methyl-1H-benzimidazole-1-carboxylate (11.3 g, 36 mmol), (4-{[(1,1-dimethylethyl)oxy]carbonyl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)boronic acid (11.7 g, 40 mmol), dichloro[1,1-bis(diphenyl-phosphino]ferrocenepalladium (II) dichloromethane adduct (3.0 g, 10 mol %) in dioxane (115 mL) and water (28.5 mL) was degassed with nitrogen, and then diisopropylethylamine (18.6 g, 144 mmol) was added. The reaction mixture was stirred at 90° C. for 220 min, cooled to room temperature, and concentrated. Column chromatography on silica of the residue (gradient 25-30% ethyl acetate in hexane) afforded 1,1-dimethylethyl 7-(1-{[(1,1-dimethylethyl)oxy]carbonyl}-2-methyl-1H-benzimidazol-6-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (13.2 g, 76% yield) as an amorphous solid. MS (EI) for C27H33N3O5: 480 (MH+).

reactant | 1,1-dimethylethyl 6-bromo-2-methyl-1H-benzimidazole-1-carboxylate | 36 mmol, 11.3 g | BrC=1C=CC2=C(N(C(=N2)C)C(=O)OC(C)(C)C)C1 | C13H15BrN2O2
reactant | (4-{[(1,1-dimethylethyl)oxy]carbonyl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)boronic acid | 40 mmol, 11.7 g | CC(C)(C)OC(=O)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C14H20BNO5
reactant | diisopropylethylamine | 144 mmol, 18.6 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 115 mL | O1CCOCC1 | C4H8O2
solvent | water | 28.5 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 1,1-dimethylethyl 7-(1-{[(1,1-dimethylethyl)oxy]carbonyl}-2-methyl-1H-benzimidazol-6-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 13.2 g, 76% yield | CC(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)C=2C=CC1=C(CN(CCO1)C(=O)OC(C)(C)C)C2)C | C27H33N3O5
